US04291031
4-Nitrobenzyl 7-(2-phenylactamido)-3-hydroxy-3-cephem-4-carboxylate (100 g.) was dissolved in a mixture of N,N-dimethylformamide (0.4 l.) and tetrahydrofuran (0.4 l.), and thereto was added potassium carbonate (29 g.). To the mixture was added dropwise mesyl chloride (26.3 g. ) at 5° C. with stirring, and the stirring was continued at the same temperature for 1.5 hours. After the reaction mixture was poured into a mixture of water (3 l. ) and ethyl acetate (3 l.) the organic layer was separated out, washed with water (1 l.) and a saturated aqueous solution of sodium chloride (1 l.×2) and then dried over anhydrous magnesium sulfate, followed by treating with an activated charcoal. The filtrate was concentrated in vacuo, and the precipitated crystals were collected by filtration and washed with diisopropyl ether to give 4-nitrobenzyl 7-(2-phenylacetamido)-3-mesyloxy-3-cephem-4-carboxylate (81.8 g.).

reactant | 4-Nitrobenzyl 7-(2-phenylactamido)-3-hydroxy-3-cephem-4-carboxylate | 100 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H19N3O7S
reactant | potassium carbonate | 29 g | C([O-])([O-])=O.[K+].[K+]
reactant | mesyl chloride | 26.3 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | water | 3 l | O | H2O
solvent | N,N-dimethylformamide | 0.4 l | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 0.4 l | O1CCCC1 | C4H8O
solvent | ethyl acetate | 3 l | C(C)(=O)OCC | C4H8O2
product | 4-nitrobenzyl 7-(2-phenylacetamido)-3-mesyloxy-3-cephem-4-carboxylate | 81.8 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H21N3O9S2
